US06713517B1
N-(2-diethylamino-ethyl)-4-amino-3-chlorobenzamide hydrochloride (1a).
Reaction of aryl carboxamides with radiation. Aqueous 100 μM solutions of procainamide (4-amino-N-(2-diethylamino-ethyl)benzamide), 3-chloro-procainamide (N-(2-diethylamino-ethyl)-4-amino-3-chlorobenzamide), metoclopramide (4-amino-5-chloro-N-(2-diethylamino-ethyl)-2-methoxybenzamide), nicotinamide and N-(2-diethylamino-ethyl nicotinamide were given 1000 Gy of irradiation from 137cesium source (1.3 Gy/min., Scanditronix) at room temperature for 30 min. The various reaction mixtures were then vacuum evaporated to dryness, redissolved in methanol, spotted on silica gel 60 F245 thin layer chromatography (TLC) plates in 1-butanol:acetic acid:water (4:1:1, v/v/v), and visualized with short and long wave ultraviolet light and also in an iodine chamber, and the Rf values calculated in the conventional manner.

reactant | procainamide | CCN(CC)CCNC(=O)C=1C=CC(=CC1)N | C13H21N3O
reactant | 3-chloro-procainamide | CCN(CC)CCNC(=O)C1=CC(=C(C=C1)N)Cl | C13H20ClN3O
reactant | metoclopramide | CCN(CC)CCNC(=O)C=1C=C(C(=CC1OC)N)Cl | C14H22ClN3O2
reactant | nicotinamide | C(C1=CN=CC=C1)(=O)N | C6H6N2O
reactant | 2-diethylamino-ethyl nicotinamide | C(C)N(CCC1=C(C(=O)N)C=CC=N1)CC | C12H19N3O
product | N-(2-diethylamino-ethyl)-4-amino-3-chlorobenzamide hydrochloride | Cl.C(C)N(CCNC(C1=CC(=C(C=C1)N)Cl)=O)CC | InChI=1S/C13H20ClN3O.ClH/c1-3-17(4-2)8-7-16-13(18)10-5-6-12(15)11(14)9-10;/h5-6,9H,3-4,7-8,15H2,1-2H3,(H,16,18);1H
